US04170583
The procedure of comparative Example 1 was followed in the reaction of 204 grams isoprene, 294 grams maleic acid anhydride, 4.9 grams azo-bis-isobutylnitrile, 30.0 grams n-butylmercaptan and 2,500 milliliters acetone. There was obtained 340 grams isoprene-maleic anhydride copolymer. This polymer had an intrinsic viscocity of 0.11, and butylthio radicals therein were 3.5 percent as determined by sulfur analysis and NMR spectrum. 17.2 grams polymer was charged to a 500-milliliter separable flask, followed by the addition of 12.3 grams potassium hydroxide and 300 grams water. The whole was heated with stirring for 2 hours, until it was liquid. The liquid, after being cooled, was added with 60 milliliters solution of 1 mol/liter magnesium chloride and stirred. The liquid composition thereby obtained was heated at 90° C. when it turned into a jelly and reversely cooled to room temperature when it returned to its initial liquid state. This composition is referred to as E-4. 1.0 grams of this composition was admixed with 1.5 grams of C.I. Disperse Orange 13, B-3E, and 50 grams of water thereby obtaining a dye solution. At the same time, 1.0 gram of Composition C-1 was admixed with 1.5 grams of Dyanics Orange B-3E and 50 grams of water, to prepare a dye solution. The two dye materials were compared for dispersability. The former was well dispersed even after a lapse of 12 consecutive hours, while the latter precipitated after a lapse of 2 hours.

reactant | isoprene | 204 grams | C=CC(C)=C | C5H8
reactant | maleic acid anhydride | 294 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | n-butylmercaptan | 30.0 grams | C(CCC)S | C4H10S
solvent | acetone | 2,500 milliliters | CC(=O)C | C3H6O
product | isoprene maleic anhydride | 340 grams | C=CC(C)=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C5H8.C4H2O3/c1-4-5(2)3;5-3-1-2-4(6)7-3/h4H,1-2H2,3H3;1-2H
